US04380645
Methyl 5-(4-chloro-2-methoxybenzoyl)-1,4-dimethylpyrrole-2-carboxylate (0.5 g, 0.0015 m) was brominated with N-bromosuccinimide (0.32 g, 0.0018 m) in carbon tetrachloride according to the procedure of Example 4, Step A, to afford methyl 4-(bromomethyl)-5-(4-chloro-2-methoxybenzoyl)-1-methyl-pyrrole-2-carboxylate.

reactant | Methyl 5-(4-chloro-2-methoxybenzoyl)-1,4-dimethylpyrrole-2-carboxylate | 0.5 g | ClC1=CC(=C(C(=O)C2=C(C=C(N2C)C(=O)OC)C)C=C1)OC | C16H16ClNO4
reactant | N-bromosuccinimide | 0.32 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | methyl 4-(bromomethyl)-5-(4-chloro-2-methoxybenzoyl)-1-methyl-pyrrole-2-carboxylate | BrCC=1C=C(N(C1C(C1=C(C=C(C=C1)Cl)OC)=O)C)C(=O)OC | C16H15BrClNO4
